Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Demerol / Percocet
 
Attending: ___.
 
Chief Complaint:
Headache/Brain lesion 
 
Major Surgical or Invasive Procedure:
None this admission 

 
History of Present Illness:
___ with DM and HTN presents with 7 week history of
headache and 6 weeks of bowel incontinence after beginning a
course of metformin for her DM. She also states she has had
blurred vision within that time period and had a brief fainting
spell on ___ to pain from the headache. The headaches 
were
excrutiating with sudden onset after activities such as 
laughing,
centered at the R parietal and occipital regions, she then saw
her PCP who began her on metformin and had her cycle tylenol and
advil for the headaches.  Due to a lack of resolution she was
seen at ___ yesterday for an MRI 
which
revealed a mass effect prompting the center to contact her PCP,
___, who requested she come to ___ to be seen for
neurosurgical evaluation. 

 
Past Medical History:
HTN
DM2
Depression
Fibroid surgery 
Bowel obstruction surgery

All: 
Percocet - does not remember reaction, states she "did not do
well on it" 

 
Social History:
___
Family History:
Mother, father, and sister had hx of stroke

 
Physical Exam:
T: 98.2  BP: 132/65         HR:67    R 18      100 on RA O2Sats
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: PERRLA         EOMI
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.

Reflexes:  Pa Ac
Right      2   2
Left       2   2 

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger, rapid alternating
movements

Handedness Right

EXAM ON DISCHARGE: 
XXX
 
Pertinent Results:
MRI: Large left CPA mass with mixed cystic and enhancing solid
components with significant mass effect on the adjacent
cerebellum and medulla/pons with effacement of the ___ ventricle
though without hydrocephalus.  Small amount of vasogenic edema 
in
the left cerebellum.  By imaging features, most likely a cystic
vestibular schwannoma.  Less likely are cystic metastasis, 
cystic
meningioma and hemangioblastoma.  

Hgb-11.9
Hct-36.2
WBC-8.5
Plt-243

N:50.5 L:40.6 M:6.3 E:1.7 Bas:0.5 ___: 0.4 Absneut: 4.30
Abslymp: 3.44 Absmono: 0.53 Abseos: 0.14 Absbaso: 0.04  

___: 9.7  PTT: 27.7  INR: 0.9  

CTA HEAD: ___ 
READ PND

 
Brief Hospital Course:
Mrs. ___ was found to have a brain lesion and was 
admitted to the floor on ___ for further work up. A CTA of the 
head was obtained and re demonstrated the brain lesion, read 
remains pending. Her Glucophage was held x 48hrs ___ contrasted 
die. On ___ the patient remained neurologically intact. After 
discussion between the patient and Dr. ___ was decided to 
discharge the patient home and return outpatient with repeat MRI 
next week. The patient will also need to see audiology and 
opthomology outpatient. Her blood glucose levels were trending 
upward, the patient was refusing ISS. She was started on low 
dose steroids. The patient expressed readiness to be discharged 
home, all discharge instructions and follow up were given prior 
to discharge. 
 
Medications on Admission:
lisinopril, HCTZ, citalopram, metformin, and buspirone 
 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Headache 
Do not exceed 6 tablets/day.  
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
capsule(s) by mouth Q 6hrs Disp #*60 Capsule Refills:*0 
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
3.  Docusate Sodium 100 mg PO BID  
4.  Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
5.  PredniSONE 2 mg PO BID 
RX *prednisone 1 mg 2 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Brain lesion
Vasogenic edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___,

- ___ neurosurgeon is Dr. ___

- ___ were found to have a brain lesion with vasogenic edema on 
the MRI of the head. 

- The lesion is noted to be near some of your cranial nerves, 
which is why ___ will need to follow up with Ophthalmology for 
your double vision, and Audiology for baseline hearing testing 
and assessment of word discrimination.  

- ___ were started on low dose steroids for your vasogenic 
edema, please continue to take this medication until instructed 
to stop by your neurosurgeon. This medication may increase your 
blood sugar further, please follow up with your primary care 
physician as soon as possible for blood glucose management. 

- your Metformin will need to be held for 48 hrs after your 
Contrasted imaging, CTA of the head. ___ may resume this 
medication on the night of ___. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if ___ experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___